US08623859B2
4-methoxy-N,2,6-trimethyl-N-[(4-{[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure AG using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (60 mg, 0.17 mmol), EDCI (33 mg, 0.17 mmol), HOAt (24 mg, 0.17 mmol and 4-(pyrrolidin-1-ylmethyl)piperidine (28 mg, 0.17 mmol) in DMF (1 mL). The crude product was purified by FCC and then using prep method C.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.17 mmol, 60 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | EDCI | 0.17 mmol, 33 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 4-(pyrrolidin-1-ylmethyl)piperidine | 0.17 mmol, 28 mg | N1(CCCC1)CC1CCNCC1 | C10H20N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-methoxy-N,2,6-trimethyl-N-[(4-{[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC=C(C1)C(=O)N1CCC(CC1)CN1CCCC1)C)C | C26H37N3O5S
